Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:6],1.57654973681
[H:1][O:2][O:3][C:4](=[C:5][H:6])[C:8]([H:9])([H:10])[H:11].[H:7]>>[H:1][O:2][O:3][C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11],-5.094633245980001
[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])[O:10][H:11]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8][O:10][H:11].[H:9],3.88313365424
[H:14].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14],-3.74506857161
[C:1]=[C:2]([O:3][C:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:1]=[C:2]([O:3][C:4]=[C:5]([H:6])[H:7])[C:9]([H:10])([H:11])[H:12].[H:8],3.11541448559
[C:1]=[C:2]([H:3])[O:4][C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:1].[C:2]([H:3])[O:4][C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],5.6147763317
[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[O:1]>>[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-8.05044399
[C:1].[C:2][O:3][C:4]#[C:5][O:6][H:7]>>[C:1]#[C:2][O:3][C:4]#[C:5][O:6][H:7],-5.79040923279
[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7][C:8]=[C:9]([H:10])[H:11]>>[C:3][C:4]([H:5])([H:6])[O:7][C:8]=[C:9]([H:10])[H:11].[H:1][O:2],6.51306571602
[H:12].[O:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[C:9]([H:10])[H:11]>>[O:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-4.54975617886
[C:1]=[C:2]([O:3][H:4])[C:5](=[C:6])[C:7]([H:8])([H:9])[H:10]>>[C:1].[C:2]([O:3][H:4])[C:5](=[C:6])[C:7]([H:8])([H:9])[H:10],5.18195275673
[C:8]#[C:9][C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]([H:4])([H:5])[C:6][H:7]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]#[C:9][C:10]([H:11])([H:12])[H:13],-6.7803612716
[C:2](=[O:3])[C:4]([H:5])([H:6])[C:7]#[C:8][H:9].[O:1]>>[O:1][C:2](=[O:3])[C:4]([H:5])([H:6])[C:7]#[C:8][H:9],-4.60054431639
[H:1][C:2]#[C:3][C:4]([H:5])[O:6][H:7].[O:8][H:9]>>[H:1][C:2]#[C:3][C:4]([H:5])([O:6][H:7])[O:8][H:9],-4.741210440290001
[H:16].[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])=[C:14][H:15]>>[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])=[C:14]([H:15])[H:16],-4.96155646593
[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])[H:14]>>[H:14].[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][C:12][H:13],3.89717379773
[H:1][O:2][C@:3]([H:4])([C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11][C:12]([H:13])([H:14])[H:15]>>[C:8]([H:9])([H:10])=[C:11][C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([H:4])=[C:5]([H:6])[H:7],-1.63211697958
[H:1][C:2]=[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14].[H:3]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],-5.18171215052
[H:1][C:2][O:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9]/[O:10][H:11]>>[C:7]([H:8])#[C:9][O:10][H:11].[H:1][C:2][O:3][C:4]([H:5])[H:6],1.67952102879
[H:1].[O:2]=[C:3]([H:4])[C:5]#[C:6][O:7][C:8]([H:9])[H:10]>>[H:1][O:2][C:3]([H:4])[C:5]#[C:6][O:7][C:8]([H:9])[H:10],-2.24614825933
[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[O:11][H:12].[H:1],3.62343946245
[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[H:1].[O:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12],3.06723957762
[O:1]=[C:2]([C:3][O:4][H:5])[C:6]([H:7])([H:8])[H:9]>>[C:2](#[C:3][O:4][H:5])[C:6]([H:7])([H:8])[H:9].[O:1],3.52445096203
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8](=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:9]([H:10])[H:11].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8][C:12]([H:13])([H:14])[H:15],8.304569572839997
[O:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:14].[O:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],4.58539937342
[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])=[C:9]=[C:10]([H:11])[H:12].[H:8]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]=[C:10]([H:11])[H:12],-1.75503685746
[H:1][O:2][C:3]([H:4])[C@@:5]([H:6])([C:7]([H:8])=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:5]([H:6])=[C:12]([H:13])[H:14].[H:1][O:2]/[C:3]([H:4])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:15],1.82342465132
[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[H:10].[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8]([H:9])[O:11][H:12],4.19341566508
[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2][O:3][C:4]([H:5])=[C:6]([H:7])[H:8]>>[H:1][C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-1.3462968165399998
